US05889026
3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-propionamide
The title compound, MS: m/e=468 (M+), was prepared from N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-3-chloro-propionamide and 4-benzyl-4-hydroxypiperidin.

reactant | N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-3-chloro-propionamide | C(C)(C)(C)[Si](OC1=CC=C(C=C1)NC(CCCl)=O)(C)C | C15H24ClNO2Si
reactant | 4-benzyl-4-hydroxypiperidin | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
product | 3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-propionamide | C(C1=CC=CC=C1)C1(CCN(CC1)CCC(=O)NC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C27H40N2O3Si
